US07799933B2
The title compound was prepared as for example 8, steps 1 to 4. Step 1 was performed using 5-chloro-2-methoxybenzensulfonyl chloride and yielded 1-(5-chloro-2-methoxybenzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester, which was hydrolyzed to 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid in step 2 and coupled to (4-amino-phenyl)-acetic acid ethyl ester and yielded (4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid ethyl ester, which was hydrolyzed to (4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid in step 4, MS (ISP): m/e=499.1 (M−H).

reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)O)OC | C16H14ClNO5S
reactant | (4-amino-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)N)=O | C10H13NO2
product | (4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C26H25ClN2O6S
